### ISSUE TITLE
feat(QPBT/Algebra): prove EPR and binary Fourier identities

### ISSUE THREAD

**Issue by Dengnifer** [Dengnifer/MIPStarRE-A#64]
### Motivation

The concrete EPR vector and binary Pauli eigenbasis are already defined, but
their normalization and Fourier expansion laws remain proof holes. These facts
are prerequisites for the later Pauli algebra and qudit-to-qubit arguments.

`eprState_norm` certifies the unit-vector property implicit in `def:EPR`. The
other two targets are characteristic-two specializations of the paper's
general-prime Fourier formulas.

### Target declarations

Prove these existing declarations in `MIPStarRE/QPBT/Algebra/Pauli.lean`
without changing their public signatures:

1. `eprState_norm`
2. `tauObservable_eq_sum_pauliProj`
3. `pauliProj_eq_avg_tauObservable`

### Sources

- EPR state: `references/qpbt-paper/04_preliminaries.tex:946-955` and
  `blueprint/src/chapter/ch11_qpbt_algebra.tex:519-548`.
- Multi-qudit Pauli eigenbases, expansion, and inversion:
  `references/qpbt-paper/04_preliminaries.tex:1097-1161` and
  `blueprint/src/chapter/ch11_qpbt_algebra.tex:550-701`.
- Existing Fourier orthogonality API:
  `MIPStarRE/LDT/Preliminaries/FiniteFields.lean`, especially `ffChar_apply`,
  `fourier_fact_scalar`, and `fourier_fact_vector`.

### Proof plan

- For `eprState_norm`, transport through `EuclideanSpace.equiv`, compute the
  squared norm of the coordinate function, reduce the sum to diagonal pairs,
  and use nonemptiness to justify the square-root normalization.
- Add the lower-level finite-field Fourier import and prove only private
  adapters identifying `phaseSign` with the canonical additive character at
  characteristic two.
- Transport `fourier_fact_vector` along `Fintype.equivFin` to obtain
  orthogonality for the arbitrary finite index type in these statements.
- Prove `tauObservable_eq_sum_pauliProj` entrywise. Split on `W`: the `Z` case
  collapses computational-basis projectors; the `X` case expands rank-one
  entries and applies binary character orthogonality.
- Derive `pauliProj_eq_avg_tauObservable` by substituting the forward expansion,
  exchanging finite sums, and applying the same orthogonality relation.

### Statement integrity

The EPR theorem is faithful for any nonempty finite carrier. The Fourier
theorems intentionally assume an algebra over `ZMod 2` and use `phaseSign`, so
they cover the admissible QPBT regime `q = 2^k`, not the paper's unrestricted
prime-characteristic formulas.

Add `**Scope restriction:**` to both Fourier theorem docstrings, citing
`docs/paper-gaps/qpbt_characteristic-two-pauli-scope.tex`. Do not link these
binary specializations to the unrestricted blueprint node or add `\leanok`
there.

### Ownership and non-goals

- Own only `MIPStarRE/QPBT/Algebra/Pauli.lean`.
- Preserve all definitions and public theorem signatures.
- Keep character, reindexing, and finite-sum adapters private.
- Do not prove results in `PauliTheorems.lean`, construct the fixed field model,
  or change qudit-to-qubit, subspace, extraction, blueprint, or re-export code.
- Do not add bridge assumptions, axioms, conditional helpers, or new proof
  holes.

This packet depends only on the existing `FieldBasis`, finite-matrix, and LDT
finite-field Fourier APIs. It is independent of #46, #48, #49, and #61-#63.

### Acceptance

- All three targets are complete with unchanged signatures and no prohibited
  proof bypass.
- `Pauli.lean` contains no `sorry`, `admit`, or new axiom.
- `#print axioms` for all three targets contains no `sorryAx`.
- A statement-integrity audit records `eprState_norm` as faithful and the two
  Fourier results as characteristic-two scope restrictions.
- `Pauli.lean` and `PauliTheorems.lean` type-check.
- The full build, diff check, exact-head CI, and independent review pass.

---
Stage 4.3 proof packet under #47.

**Comment by Dengnifer** [comment]
### Compile-tested EPR normalization proof

The following unchanged-signature proof of `eprState_norm` compiles under the
existing `Pauli.lean` imports:

```lean
by
  apply (sq_eq_sq₀ (norm_nonneg _) zero_le_one).mp
  rw [EuclideanSpace.norm_sq_eq]
  change
    (∑ p : V × V,
      ‖if p.1 = p.2 then (Real.sqrt (Fintype.card V : ℝ) : ℂ)⁻¹ else 0‖ ^ 2) =
        1 ^ 2
  rw [Fintype.sum_prod_type]
  simp_rw [apply_ite (fun z : ℂ => ‖z‖ ^ 2)]
  simp
```

`#print axioms` reports only `propext`, `Classical.choice`, and `Quot.sound`.
The two Fourier projector identities remain in progress in the same scout lane.

**Comment by Dengnifer** [comment]
### Compile-tested forward Fourier expansion

This full harness proves `tauObservable_eq_sum_pauliProj` for every finite index type, including the empty type. It requires the additional import `MIPStarRE.LDT.Preliminaries.FiniteFields`. `#print axioms` contains only `propext`, `Classical.choice`, and `Quot.sound`. Rename the harness theorem from its `_test` suffix to the existing target when applying it.

<details><summary>Full Lean harness</summary>

```lean
import MIPStarRE.QPBT.Algebra.Pauli
import MIPStarRE.LDT.Preliminaries.FiniteFields

open scoped BigOperators Matrix ComplexOrder

namespace MIPStarRE.QPBT

open MIPStarRE.Quantum
open MIPStarRE.LDT.Preliminaries

private theorem phaseSign_eq_stdAddChar (t : ZMod 2) :
    phaseSign t = ZMod.stdAddChar (N := 2) t := by
  fin_cases t
  next =>
    change phaseSign (0 : ZMod 2) = ZMod.stdAddChar (N := 2) 0
    simp [phaseSign]
  next =>
    change phaseSign (1 : ZMod 2) = ZMod.stdAddChar (N := 2) 1
    rw [show (1 : ZMod 2) = (1 : ℤ) by norm_num, ZMod.stdAddChar_coe]
    norm_num [phaseSign]
    rw [show (2 : ℂ) * (Real.pi : ℂ) * Complex.I / 2 =
      (Real.pi : ℂ) * Complex.I by ring]
    exact Complex.exp_pi_mul_I.symm

private theorem phaseSign_add (s t : ZMod 2) :
    phaseSign (s + t) = phaseSign s * phaseSign t := by
  rw [phaseSign_eq_stdAddChar, phaseSign_eq_stdAddChar, phaseSign_eq_stdAddChar]
  exact AddChar.map_add_eq_mul (ZMod.stdAddChar (N := 2)) s t

private theorem phaseSign_star (t : ZMod 2) : star (phaseSign t) = phaseSign t := by
  by_cases ht : t = 0 <;> simp [phaseSign, ht]

private theorem phaseSign_binTrace_eq_ffChar {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (x : K) :
    phaseSign (binTrace K x) = ffChar (p := 2) (F := K) x := by
  rw [ffChar_apply, phaseSign_eq_stdAddChar]

private theorem phaseSign_binTrace_add {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (u v : K) :
    phaseSign (binTrace K (u + v)) =
      phaseSign (binTrace K u) * phaseSign (binTrace K v) := by
  simp_rw [phaseSign_binTrace_eq_ffChar]
  exact AddChar.map_add_eq_mul (ffChar (p := 2) (F := K)) u v

private theorem phaseSign_binTrace_sum {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (f : ι → K) :
    phaseSign (binTrace K (∑ i, f i)) =
      ∏ i, phaseSign (binTrace K (f i)) := by
  simp_rw [phaseSign_binTrace_eq_ffChar]
  have h (s : Finset ι) :
      ffChar (p := 2) (F := K) (∑ i ∈ s, f i) =
        ∏ i ∈ s, ffChar (p := 2) (F := K) (f i) := by
    induction s using Finset.induction_on with
    | empty => simp
    | @insert i s hi ih =>
        rw [Finset.sum_insert hi, Finset.prod_insert hi,
          AddChar.map_add_eq_mul, ih]
  simpa using h Finset.univ

private theorem scalar_fourier_cancel {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (v : K) :
    (Fintype.card K : ℂ)⁻¹ *
        ∑ e : K, phaseSign (binTrace K (e * v)) =
      if v = 0 then 1 else 0 := by
  simpa [Finset.expect, phaseSign_binTrace_eq_ffChar, NNRat.smul_def,
    smul_eq_mul] using
    (fourier_fact_scalar (p := 2) (F := K) v)

private theorem scalar_fourier_cancel_inside {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (v : K) :
    (∑ e : K, (Fintype.card K : ℂ)⁻¹ *
        phaseSign (binTrace K (e * v))) =
      if v = 0 then 1 else 0 := by
  rw [← Finset.mul_sum]
  exact scalar_fourier_cancel v

private theorem sqrt_card_inv_mul_self {K : Type*} [Field K] [Fintype K] :
    ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) *
        ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) =
      (Fintype.card K : ℂ)⁻¹ := by
  have hsqrt : Real.sqrt (Fintype.card K : ℝ) *
      Real.sqrt (Fintype.card K : ℝ) = (Fintype.card K : ℝ) :=
    Real.mul_self_sqrt (Nat.cast_nonneg _)
  rw [← mul_inv]
  congr 1
  exact_mod_cast hsqrt

private theorem pauliVec_X_apply {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) :
    pauliVec .X e x =
      ∏ i : ι, (Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
        phaseSign (binTrace K (e i * x i)) := by
  rfl

private theorem star_pauliVec_X {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) : star (pauliVec .X e x) = pauliVec .X e x := by
  rw [pauliVec_X_apply, star_prod]
  apply Finset.prod_congr rfl
  intro i hi
  rw [star_mul, phaseSign_star]
  simp [mul_comm]

private theorem pauliVec_Z_apply {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) :
    pauliVec .Z e x = ∏ i : ι, if x i = e i then 1 else 0 := by
  rfl

private theorem phaseSign_binTrace_dotProduct {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (u v : ι → K) :
    phaseSign (binTrace K (dotProduct u v)) =
      ∏ i : ι, phaseSign (binTrace K (u i * v i)) := by
  simpa [dotProduct] using
    phaseSign_binTrace_sum (K := K) (fun i : ι => u i * v i)

private theorem prod_ite_eq_indicator {ι : Type*} [Fintype ι] [DecidableEq ι]
    {K : Type*} [DecidableEq K] (x e : ι → K) :
    (∏ i : ι, if x i = e i then (1 : ℂ) else 0) = if x = e then 1 else 0 := by
  by_cases hxe : x = e
  · subst e
    simp
  · obtain ⟨i, hi⟩ : ∃ i, x i ≠ e i := by
      simpa [funext_iff] using hxe
    rw [Finset.prod_eq_zero (Finset.mem_univ i) (if_neg hi), if_neg hxe]

private theorem xPauli_summand_factor {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (a e x y : ι → K) :
    phaseSign (binTrace K (dotProduct a e)) *
        (pauliVec .X e x * star (pauliVec .X e y)) =
      ∏ i : ι, (Fintype.card K : ℂ)⁻¹ *
        phaseSign (binTrace K (e i * (a i + x i + y i))) := by
  rw [star_pauliVec_X, pauliVec_X_apply, pauliVec_X_apply,
    phaseSign_binTrace_dotProduct]
  rw [← Finset.prod_mul_distrib, ← Finset.prod_mul_distrib]
  apply Finset.prod_congr rfl
  intro i hi
  calc
    phaseSign (binTrace K (a i * e i)) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
            phaseSign (binTrace K (e i * x i)) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
            phaseSign (binTrace K (e i * y i)))) =
        (((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹)) *
          (phaseSign (binTrace K (a i * e i)) *
            phaseSign (binTrace K (e i * x i)) *
            phaseSign (binTrace K (e i * y i))) := by ring
    _ = (Fintype.card K : ℂ)⁻¹ *
          (phaseSign (binTrace K (a i * e i)) *
            phaseSign (binTrace K (e i * x i)) *
            phaseSign (binTrace K (e i * y i))) := by
      rw [sqrt_card_inv_mul_self]
    _ = (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K ((a i * e i) + (e i * x i) + (e i * y i))) := by
      rw [phaseSign_binTrace_add, phaseSign_binTrace_add]
    _ = (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (e i * (a i + x i + y i))) := by
      congr 2
      ring

private theorem add_add_eq_zero_iff_shift {K : Type*} [Field K]
    [Algebra (ZMod 2) K] (a x y : K) :
    a + x + y = 0 ↔ x = y + a := by
  haveI : CharP K 2 :=
    (Algebra.charP_iff (ZMod 2) K 2).mp (ZMod.charP 2)
  calc
    a + x + y = 0 ↔ x + (a + y) = 0 := by ring
    _ ↔ x = a + y := CharTwo.add_eq_zero
    _ ↔ x = y + a := by rw [add_comm a y]

theorem tauObservable_eq_sum_pauliProj_test {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (W : PauliKind) (a : ι → K) :
    tauObservable W a =
      ∑ e : ι → K, phaseSign (binTrace K (dotProduct a e)) • pauliProj W e := by
  ext x y
  cases W
  · simp only [tauObservable, tauShift, pauliProj, Matrix.sum_apply,
      Matrix.smul_apply, Matrix.vecMulVec_apply]
    simp_rw [smul_eq_mul, xPauli_summand_factor]
    rw [show
      (∑ e : ι → K, ∏ i : ι, (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (e i * (a i + x i + y i)))) =
        ∏ i : ι, ∑ z : K, (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (z * (a i + x i + y i))) by
      simpa using
        (Finset.sum_prod_piFinset (R := ℂ) (ι := ι) (Finset.univ : Finset K)
          (fun i z => (Fintype.card K : ℂ)⁻¹ *
            phaseSign (binTrace K (z * (a i + x i + y i)))))]
    simp_rw [scalar_fourier_cancel_inside, add_add_eq_zero_iff_shift]
  · simp only [tauObservable, tauPhase, pauliProj, Matrix.sum_apply,
      Matrix.smul_apply, Matrix.vecMulVec_apply, pauliVec_Z_apply]
    simp_rw [prod_ite_eq_indicator]
    by_cases hxy : x = y
    · subst y
      simp only [ite_true]
      rw [← phaseSign_binTrace_dotProduct]
      simp [smul_eq_mul]
    · obtain ⟨i, hi⟩ : ∃ i, x i ≠ y i := by
        simpa [funext_iff] using hxy
      rw [Finset.prod_eq_zero (Finset.mem_univ i) (if_neg hi)]
      simp [hxy, smul_eq_mul]

#print axioms tauObservable_eq_sum_pauliProj_test

end MIPStarRE.QPBT

```

</details>

**Comment by Dengnifer** [comment]
### Complete compile-tested proof handoff

This supersedes the earlier EPR-only and forward-only scout comments. The harness below proves all
three issue targets together and deliberately makes the inverse theorem use the newly proved
forward theorem, rather than the `sorry`-backed declaration currently in `Pauli.lean`.

Integration instructions:

1. In `MIPStarRE/QPBT/Algebra/Pauli.lean`, retain the existing imports and add
   `import MIPStarRE.LDT.Preliminaries.FiniteFields`.
2. Add `open MIPStarRE.LDT.Preliminaries` inside `namespace MIPStarRE.QPBT`.
3. Copy the private helpers from the harness. Replace each existing theorem body with the body of
   its corresponding `_test` theorem; do not copy the `_test` declarations or `#print` commands.
4. Preserve all three public signatures exactly. Keep every adapter private.
5. Add the scope marker below to both Fourier theorem docstrings. Do not add a blueprint `\lean`
   link or `\leanok` for these binary specializations.

Required docstring text:

```text
**Scope restriction:** This is the characteristic-two specialization used by
the QPBT track; it is not the arbitrary-prime source theorem. See
`docs/paper-gaps/qpbt_characteristic-two-pauli-scope.tex`.
```

<details><summary>Full combined Lean harness</summary>

```lean
import MIPStarRE.QPBT.Algebra.Pauli
import MIPStarRE.LDT.Preliminaries.FiniteFields

open scoped BigOperators Matrix ComplexOrder

namespace MIPStarRE.QPBT

open MIPStarRE.Quantum
open MIPStarRE.LDT.Preliminaries

private theorem phaseSign_eq_stdAddChar (t : ZMod 2) :
    phaseSign t = ZMod.stdAddChar (N := 2) t := by
  fin_cases t
  next =>
    change phaseSign (0 : ZMod 2) = ZMod.stdAddChar (N := 2) 0
    simp [phaseSign]
  next =>
    change phaseSign (1 : ZMod 2) = ZMod.stdAddChar (N := 2) 1
    rw [show (1 : ZMod 2) = (1 : ℤ) by norm_num, ZMod.stdAddChar_coe]
    norm_num [phaseSign]
    rw [show (2 : ℂ) * (Real.pi : ℂ) * Complex.I / 2 =
      (Real.pi : ℂ) * Complex.I by ring_nf]
    exact Complex.exp_pi_mul_I.symm

private theorem phaseSign_star (t : ZMod 2) : star (phaseSign t) = phaseSign t := by
  by_cases ht : t = 0 <;> simp [phaseSign, ht]

private theorem phaseSign_binTrace_eq_ffChar {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (x : K) :
    phaseSign (binTrace K x) = ffChar (p := 2) (F := K) x := by
  rw [ffChar_apply, phaseSign_eq_stdAddChar]

private theorem phaseSign_binTrace_add {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (u v : K) :
    phaseSign (binTrace K (u + v)) =
      phaseSign (binTrace K u) * phaseSign (binTrace K v) := by
  simp_rw [phaseSign_binTrace_eq_ffChar]
  exact AddChar.map_add_eq_mul (ffChar (p := 2) (F := K)) u v

private theorem phaseSign_binTrace_sum {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (f : ι → K) :
    phaseSign (binTrace K (∑ i, f i)) =
      ∏ i, phaseSign (binTrace K (f i)) := by
  simp_rw [phaseSign_binTrace_eq_ffChar]
  have h (s : Finset ι) :
      ffChar (p := 2) (F := K) (∑ i ∈ s, f i) =
        ∏ i ∈ s, ffChar (p := 2) (F := K) (f i) := by
    induction s using Finset.induction_on with
    | empty => simp
    | @insert i s hi ih =>
        rw [Finset.sum_insert hi, Finset.prod_insert hi,
          AddChar.map_add_eq_mul, ih]
  simpa using h Finset.univ

private theorem scalar_fourier_cancel {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (v : K) :
    (Fintype.card K : ℂ)⁻¹ *
        ∑ e : K, phaseSign (binTrace K (e * v)) =
      if v = 0 then 1 else 0 := by
  simpa [Finset.expect, phaseSign_binTrace_eq_ffChar, NNRat.smul_def,
    smul_eq_mul] using
    (fourier_fact_scalar (p := 2) (F := K) v)

private theorem scalar_fourier_cancel_inside {K : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] (v : K) :
    (∑ e : K, (Fintype.card K : ℂ)⁻¹ *
        phaseSign (binTrace K (e * v))) =
      if v = 0 then 1 else 0 := by
  rw [← Finset.mul_sum]
  exact scalar_fourier_cancel v

private theorem sqrt_card_inv_mul_self {K : Type*} [Field K] [Fintype K] :
    ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) *
        ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) =
      (Fintype.card K : ℂ)⁻¹ := by
  have hsqrt : Real.sqrt (Fintype.card K : ℝ) *
      Real.sqrt (Fintype.card K : ℝ) = (Fintype.card K : ℝ) :=
    Real.mul_self_sqrt (Nat.cast_nonneg _)
  rw [← mul_inv]
  congr 1
  norm_cast

private theorem pauliVec_X_apply {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) :
    pauliVec .X e x =
      ∏ i : ι, (Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
        phaseSign (binTrace K (e i * x i)) := by
  rfl

private theorem star_pauliVec_X {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) : star (pauliVec .X e x) = pauliVec .X e x := by
  rw [pauliVec_X_apply, star_prod]
  apply Finset.prod_congr rfl
  intro i hi
  rw [star_mul, phaseSign_star]
  simp [mul_comm]

private theorem pauliVec_Z_apply {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (e x : ι → K) :
    pauliVec .Z e x = ∏ i : ι, if x i = e i then 1 else 0 := by
  rfl

private theorem phaseSign_binTrace_dotProduct {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (u v : ι → K) :
    phaseSign (binTrace K (dotProduct u v)) =
      ∏ i : ι, phaseSign (binTrace K (u i * v i)) := by
  simpa [dotProduct] using
    phaseSign_binTrace_sum (K := K) (fun i : ι => u i * v i)

private theorem prod_ite_eq_indicator {ι : Type*} [Fintype ι] [DecidableEq ι]
    {K : Type*} [DecidableEq K] (x e : ι → K) :
    (∏ i : ι, if x i = e i then (1 : ℂ) else 0) = if x = e then 1 else 0 := by
  by_cases hxe : x = e
  · subst e
    simp
  · obtain ⟨i, hi⟩ : ∃ i, x i ≠ e i := by
      simpa [funext_iff] using hxe
    rw [Finset.prod_eq_zero (Finset.mem_univ i) (if_neg hi), if_neg hxe]

private theorem xPauli_summand_factor {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (a e x y : ι → K) :
    phaseSign (binTrace K (dotProduct a e)) *
        (pauliVec .X e x * star (pauliVec .X e y)) =
      ∏ i : ι, (Fintype.card K : ℂ)⁻¹ *
        phaseSign (binTrace K (e i * (a i + x i + y i))) := by
  rw [star_pauliVec_X, pauliVec_X_apply, pauliVec_X_apply,
    phaseSign_binTrace_dotProduct]
  rw [← Finset.prod_mul_distrib, ← Finset.prod_mul_distrib]
  apply Finset.prod_congr rfl
  intro i hi
  calc
    phaseSign (binTrace K (a i * e i)) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
            phaseSign (binTrace K (e i * x i)) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹ *
            phaseSign (binTrace K (e i * y i)))) =
        (((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹) *
          ((Real.sqrt (Fintype.card K : ℝ) : ℂ)⁻¹)) *
          (phaseSign (binTrace K (a i * e i)) *
            phaseSign (binTrace K (e i * x i)) *
            phaseSign (binTrace K (e i * y i))) := by ring_nf
    _ = (Fintype.card K : ℂ)⁻¹ *
          (phaseSign (binTrace K (a i * e i)) *
            phaseSign (binTrace K (e i * x i)) *
            phaseSign (binTrace K (e i * y i))) := by
      rw [sqrt_card_inv_mul_self]
    _ = (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K ((a i * e i) + (e i * x i) + (e i * y i))) := by
      rw [phaseSign_binTrace_add, phaseSign_binTrace_add]
    _ = (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (e i * (a i + x i + y i))) := by
      congr 2
      ring_nf

private theorem add_add_eq_zero_iff_shift {K : Type*} [Field K]
    [Algebra (ZMod 2) K] (a x y : K) :
    a + x + y = 0 ↔ x = y + a := by
  haveI : CharP K 2 :=
    (Algebra.charP_iff (ZMod 2) K 2).mp (ZMod.charP 2)
  calc
    a + x + y = 0 ↔ x + (a + y) = 0 := by ring_nf
    _ ↔ x = a + y := CharTwo.add_eq_zero
    _ ↔ x = y + a := by rw [add_comm a y]

theorem tauObservable_eq_sum_pauliProj_test {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (W : PauliKind) (a : ι → K) :
    tauObservable W a =
      ∑ e : ι → K, phaseSign (binTrace K (dotProduct a e)) • pauliProj W e := by
  ext x y
  cases W
  · simp only [tauObservable, tauShift, pauliProj, Matrix.sum_apply,
      Matrix.smul_apply, Matrix.vecMulVec_apply]
    simp_rw [smul_eq_mul, xPauli_summand_factor]
    rw [show
      (∑ e : ι → K, ∏ i : ι, (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (e i * (a i + x i + y i)))) =
        ∏ i : ι, ∑ z : K, (Fintype.card K : ℂ)⁻¹ *
          phaseSign (binTrace K (z * (a i + x i + y i))) by
      simpa using
        (Finset.sum_prod_piFinset (R := ℂ) (ι := ι) (Finset.univ : Finset K)
          (fun i z => (Fintype.card K : ℂ)⁻¹ *
            phaseSign (binTrace K (z * (a i + x i + y i)))))]
    simp_rw [scalar_fourier_cancel_inside, add_add_eq_zero_iff_shift]
  · simp only [tauObservable, tauPhase, pauliProj, Matrix.sum_apply,
      Matrix.smul_apply, Matrix.vecMulVec_apply, pauliVec_Z_apply]
    simp_rw [prod_ite_eq_indicator]
    by_cases hxy : x = y
    · subst y
      simp only [ite_true]
      rw [← phaseSign_binTrace_dotProduct]
      simp [smul_eq_mul]
    · obtain ⟨i, hi⟩ : ∃ i, x i ≠ y i := by
        simpa [funext_iff] using hxy
      rw [Finset.prod_eq_zero (Finset.mem_univ i) (if_neg hi)]
      simp [hxy, smul_eq_mul]

theorem eprState_norm_test (V : Type*) [Fintype V] [DecidableEq V] [Nonempty V] :
    ‖eprState V‖ = 1 := by
  apply (sq_eq_sq₀ (norm_nonneg _) zero_le_one).mp
  rw [EuclideanSpace.norm_sq_eq]
  change
    (∑ p : V × V,
      ‖if p.1 = p.2 then (Real.sqrt (Fintype.card V : ℝ) : ℂ)⁻¹ else 0‖ ^ 2) =
      1 ^ 2
  rw [Fintype.sum_prod_type]
  simp_rw [apply_ite (fun z : ℂ => ‖z‖ ^ 2)]
  simp

private theorem binary_fourier_orthogonality {K ι : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K]
    [Fintype ι] [DecidableEq ι] (v : ι → K) :
    𝔼 u : (ι → K), phaseSign (binTrace K (dotProduct u v)) =
      if v = 0 then (1 : ℂ) else 0 := by
  let e : ι ≃ Fin (Fintype.card ι) := Fintype.equivFin ι
  let E : (ι → K) ≃ (Fin (Fintype.card ι) → K) :=
    Equiv.arrowCongr e (Equiv.refl K)
  have hdot (u : ι → K) :
      ffDotProduct (E u) (E v) = dotProduct u v := by
    simpa [ffDotProduct, dotProduct, E, e] using
      (Equiv.sum_comp e.symm (fun i => u i * v i))
  calc
    (𝔼 u : (ι → K), phaseSign (binTrace K (dotProduct u v))) =
        𝔼 u' : (Fin (Fintype.card ι) → K),
          ffVecChar (p := 2) (F := K) (E v) u' := by
      apply Fintype.expect_equiv E
      intro u
      rw [ffVecChar_apply, hdot, phaseSign_binTrace_eq_ffChar]
    _ = if E v = 0 then (1 : ℂ) else 0 :=
      fourier_fact_vector (p := 2) (F := K) (E v)
    _ = if v = 0 then (1 : ℂ) else 0 := by
      have hEzero : E (0 : ι → K) = 0 := by
        ext j
        rfl
      by_cases hv : v = 0
      · subst v
        simp [hEzero]
      · have hEv : E v ≠ 0 := by
          intro h
          apply hv
          exact E.injective (h.trans hEzero.symm)
        simp [hv, hEv]

private theorem binary_fourier_sum {K ι : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K]
    [Fintype ι] [DecidableEq ι] (v : ι → K) :
    (Fintype.card (ι → K) : ℂ)⁻¹ *
        ∑ u : ι → K, phaseSign (binTrace K (dotProduct u v)) =
      if v = 0 then 1 else 0 := by
  simpa [Finset.expect, NNRat.smul_def, smul_eq_mul] using
    binary_fourier_orthogonality v

private theorem phaseSign_dotProduct_add {K ι : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K]
    [Fintype ι] [DecidableEq ι] (a e b : ι → K) :
    phaseSign (binTrace K (dotProduct a e)) *
        phaseSign (binTrace K (dotProduct a b)) =
      phaseSign (binTrace K (dotProduct a (e + b))) := by
  rw [← phaseSign_binTrace_add]
  congr 2
  simp [dotProduct, mul_add, Finset.sum_add_distrib]

theorem pauliProj_eq_avg_tauObservable_test {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (W : PauliKind) (e : ι → K) :
    pauliProj W e =
      (Fintype.card (ι → K) : ℂ)⁻¹ •
        ∑ a : ι → K, phaseSign (binTrace K (dotProduct a e)) • tauObservable W a := by
  symm
  simp_rw [tauObservable_eq_sum_pauliProj_test]
  rw [Finset.smul_sum]
  simp_rw [Finset.smul_sum, smul_smul]
  rw [Finset.sum_comm]
  simp_rw [phaseSign_dotProduct_add]
  simp_rw [← Finset.sum_smul]
  simp_rw [← Finset.mul_sum, binary_fourier_sum]
  haveI : CharP K 2 :=
    (Algebra.charP_iff (ZMod 2) K 2).mp (ZMod.charP 2)
  have hadd (b : ι → K) : e + b = 0 ↔ e = b := by
    constructor
    · intro h
      funext i
      exact CharTwo.add_eq_zero.mp (congrFun h i)
    · intro h
      subst b
      ext i
      exact CharTwo.add_eq_zero.mpr rfl
  simp_rw [hadd]
  simp

#print axioms tauObservable_eq_sum_pauliProj_test
#print axioms eprState_norm_test
#print axioms pauliProj_eq_avg_tauObservable_test

end MIPStarRE.QPBT
```

</details>

Validation from repository root at main-compatible head `5156e174`:

```text
$ lake env lean -R /tmp /tmp/mipstarre_pauli_forward_7f3d.lean
'MIPStarRE.QPBT.tauObservable_eq_sum_pauliProj_test' depends on axioms:
  [propext, Classical.choice, Quot.sound]
'MIPStarRE.QPBT.eprState_norm_test' depends on axioms:
  [propext, Classical.choice, Quot.sound]
'MIPStarRE.QPBT.pauliProj_eq_avg_tauObservable_test' depends on axioms:
  [propext, Classical.choice, Quot.sound]
```

The command exited 0, emitted no warnings, and every harness line is at most 100 characters. The
axiom audit contains no `sorryAx`. The proof works for arbitrary finite `ι`, including the empty
type. Source alignment: EPR is faithful to `def:EPR`; the two Fourier results remain explicitly
characteristic-two consumer specializations, as required by the cited paper-gap note.
